US03966931
A solution of 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (15.0 g.) in anhydrous tetrahydrofuran (150 cc.) is treated for 15 minutes at about 10°-15°C with sodium hydride (1.44 g.), and a solution of 1-chlorocarbonyl-4methylpiperazine (24.4 g.) in anhydrous tetrahydrofuran (200 cc.) is then added, at 5°C. The reaction mixture is stirred for 4 hours at 5°C. After evaporating the solvent under reduced pressure (20 mm.Hg), the residue is dissolved in diethyl ether (450 cc.). The ether solution is rapidly extracted twice with an ice-cold normal aqueous solution of methanesulphonic acid (total 500 cc.). The combined aqueous extracts are rendered alkaline by adding 10N sodium hydroxide solution (100 cc.). The oil which separates out is extracted with methylene chloride (250 cc.) and then with diethyl ether (300 cc.). The combined organic extracts are washed five times with distilled water (total 250 cc.), dried over anhydrous sodium sulphate, treated with decolourising charcoal (0.1 g.) and evaporated. The crystals obtained (18.0 g.; m.p. 170°C.) are dissolved in boiling ethanol (225 cc.). After filtering the boiling solution and then cooling it for three hours at 2°C., the crystals which have appeared are filtered off, washed three times with ice-cold ethanol (total 45 cc.) and dried under reduced pressure (20 mm.Hg). 6-(5-Chloropyrid-2-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (15.6 g.), melting at 180°C., is thus obtained.

reactant | 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 15.0 g | ClC=1C=CC(=NC1)N1C(C2=C(C1O)SCCS2)=O | C11H9ClN2O2S2
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | 1-chlorocarbonyl-4methylpiperazine | 24.4 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | ethanol | 225 cc | C(C)O | C2H6O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
product | 6-(5-Chloropyrid-2-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 15.6 g | ClC=1C=CC(=NC1)N1C(C2=C(C1OC(=O)N1CCN(CC1)C)SCCS2)=O | C17H19ClN4O3S2
